US04604465
To a solution containing 1-methanesulphonyl-3-(2,2,2-trifluoroethyl)thiourea (0.09 g.) and 2-[2-(2,2,2-trifluoroethyl)guanidino]-4-(4-aminobutyl)thiazole (0.13 g.) in dimethylformamide (4 ml.) was added a solution of silver nitrate (0.14 g.) in dimethylformamide (2 ml.). After allowing it to stand at room temperature for 3 hours the reaction mixture was treated with an excess of gaseous hydrogen sulphide and the precipitated silver sulphite filtered off. The residue obtained on evaporation of the filtrate was subjected to preparative thin layer chromatography using chloroform/methanol/ammonia 90:10:0.1 v/v/v for development. Isolation of the appropriate zone of the chromatogram and extraction with hot ethanol/chloroform 50:50 v/v (150 ml.) gave a yellow residue which on crystallisation from methanol afforded 2-[2-(2,2,2-trifluoroethyl)guanidino]-4-[2-(2-methylsulphonyl-3-[2,2,2-trifluoroethyl]guanidino)ethylthiomethyl]thiazole which contained one mole of methanol of crystallisation. The n.m.r. spectrum in d6 l dimethylsulphoxide containing a little d4 acetic acid and using tetramethylsilane as internal standard (δ=0) included the following resonances (δ):2.8 (3H, singlet); 4.0 (2H, multiplet); 4.1 (2H, multiplet); 6.4 (1H, singlet).

reactant | 1-methanesulphonyl-3-(2,2,2-trifluoroethyl)thiourea | 0.09 g | CS(=O)(=O)NC(=S)NCC(F)(F)F | C4H7F3N2O2S2
reactant | 2-[2-(2,2,2-trifluoroethyl)guanidino]-4-(4-aminobutyl)thiazole | 0.13 g | FC(CN=C(NC=1SC=C(N1)CCCCN)N)(F)F | C10H16F3N5S
reactant | hydrogen sulphide | S | H2S
reactant | chloroform methanol ammonia | C(Cl)(Cl)Cl.CO.N
reactant | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
catalyst | silver nitrate | 0.14 g | [N+](=O)([O-])[O-].[Ag+]
product | 2-[2-(2,2,2-trifluoroethyl)guanidino]-4-[2-(2-methylsulphonyl-3-[2,2,2-trifluoroethyl]guanidino)ethylthiomethyl]thiazole | FC(CN=C(NC=1SC=C(N1)CSCCNC(=NS(=O)(=O)C)NCC(F)(F)F)N)(F)F | C13H19F6N7O2S3
